US08076463B2
Conjugation of rVWF with Branched Peg Via Lysine Residues
A solution of a mature rVWF (35 U VWF:Ag/ml) in 20 mM HEPES buffer, 150 mM NaCl, pH 7.4, containing 0.5% sucrose was prepared according to Example 23. Then branched mPEG succinimidyl glutarate (PE-SG/chain length: 20 kD) supplied by NOF corporation (NOF Europe, Grobbendonk, Belgium) was added to this solution under gentle stirring (5 mg PEG-SG/mg protein) and the pH value was adjusted to 7.4 by drop wise addition of 0.5 M NaOH. Than the PEGylation was carried out under gentle stirring for 1 h at room temperature. Subsequently the reaction mixture was applied onto an equilibrated ion-exchange chromatography resin (Fractogel EMD TMAE 650M) in 20 mM HEPES buffer, 150 mM NaCl, pH 7.4, containing 0.5% sucrose. Then the column was washed with 20 CV equilibration buffer to remove excess reagent and the PEGylated rVWF was eluted with elution buffer (20 mM HEPES, 0.5 M NaCl, 0.5% sucrose, pH 7.4). The eluate was concentrated by ultrafiltration/diafiltration with a membrane consisting of regenerated cellulose and with a molecular weight cut-off of 100 kD using a buffer system consisting of 20 mM HEPES, 150 mM NaCl, 0.5% sucrose, pH 7.4. The PEGylated derivative obtained showed a slightly diminished VWF:Rco/VWF:Ag ratio of 0.79 as compared with the rVWF starting material (VWF:Rco/VWF:Ag ratio: 0.89). In addition, the PEGylated rVWF starting material had a FVIII binding capacity of 83% as measured by the ECA test (Example 16).

reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | NaOH | 0.5 M | [OH-].[Na+]
reactant | TMAE | 650M | C[N+](C)(C)[O-] | C3H9NO
reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | HEPES | 20 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | HEPES | 20 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
